US05041455
A. 3-(4-hexyloxy-1,2,5-oxadiazol-3-yl)pyridine
To a solution of sodium (100 mg, 4.3 mmol) in 1-hexanol (10 ml) was added 3-(4-chloro-1,2,5-oxadiazol-3-yl)pyridine (180 mg, 1 mmol). The mixture was stirred at 25° C. for 18 h and evaporated. The residue was dissolved in water and extracted with ether. The combined organic phases were dried and evaporated to give the title compound.

reactant | sodium | 4.3 mmol, 100 mg | [Na] | Na
reactant | 3-(4-chloro-1,2,5-oxadiazol-3-yl)pyridine | 1 mmol, 180 mg | ClC=1C(=NON1)C=1C=NC=CC1 | C7H4ClN3O
reactant | 1-hexanol | 10 ml | C(CCCCC)O | C6H14O
product | 3-(4-hexyloxy-1,2,5-oxadiazol-3-yl)pyridine | C(CCCCC)OC=1C(=NON1)C=1C=NC=CC1 | C13H17N3O2
